US07678820B2
To a solution of 2-[2-(methylthio)ethyl]-5-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole (400 mg) in dichloromethane (8.0 ml) was added mCPBA (534 mg), followed by stirring at room temperature for 3 hours. To the reaction mixture was added a Na2S2O4 aqueous solution, followed by stirring for 1 hour. The reaction solution was extracted three times with EtOAc, and the organic layer was combined, dried over anhydrous MgSO4, filtered, and then concentrated. The residue was purified by silica gel chromatography (chloroform:CH3OH=10:1) to obtain a yellow oily substance. This was dissolved in EtOAc, and a 4M-HCl/EtOAc solution was added thereto, followed by concentration. The residue was washed with IPE to obtain 2-[2-(methylsulfonyl)ethyl]-5-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole hydrochloride (146 mg) as pale yellow powders.

reactant | 2-[2-(methylthio)ethyl]-5-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole | 400 mg | CSCCC1=NC2=C(N1)C=CC(=C2)C2=NOC(=N2)C2=CC(=C(C=C2)OC(C(F)(F)F)C)C(F)(F)F | C22H18F6N4O2S
reactant | mCPBA | 534 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | HCl EtOAc | Cl.CCOC(=O)C
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[2-(methylsulfonyl)ethyl]-5-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole hydrochloride | 146 mg | Cl.CS(=O)(=O)CCC1=NC2=C(N1)C=CC(=C2)C2=NOC(=N2)C2=CC(=C(C=C2)OC(C(F)(F)F)C)C(F)(F)F | InChI=1S/C22H18F6N4O4S.ClH/c1-11(21(23,24)25)35-17-6-4-13(9-14(17)22(26,27)28)20-31-19(32-36-20)12-3-5-15-16(10-12)30-18(29-15)7-8-37(2,33)34;/h3-6,9-11H,7-8H2,1-2H3,(H,29,30);1H
